Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Flank pain, chills 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ y/o female with h/o previous kidney stone, 
migraines, depression who presents with several days of R-sided 
abd/flank pain abnd fever.

Begain with right-sided flank pain 2 days ago. Since then the 
pain has wrapped around to her front and she now has right sided 
abdominal pain. She also reports associated fevers. She has had 
minimal nausea, no emesis. She has been able to eat, though not 
much today in the ED. She has no diarrhea, instead has had some 
constipation. She denies dysuria, increased frequency, 
hematuria.

The pain is similar to her a prior kidney stones (several years 
ago)which required lithotripsy. She denies chest pain, shortness 
of breath.

In the ED, initial VS were 99.8 96 141/97 18 97% ra. Labs 
significant for UA w/ pyuria. RUQ U/S showed no evidence of 
cholecystitis. CTU showed a small R sided stone and evidence of 
pyelonephritis. Urology was consulted and noted bilateral 
punctate stones, no hydroureter or hydronephrosis, recomend 
treating for pyelonephritis. She was given ceftriaxone 1g IV, 
morphine, and dilaudid. Given 2L IV NS. 

On arrival to the floor she has continued pain, as well as a 
headache.

REVIEW OF SYSTEMS:  
Denies rhinorrhea, congestion, sore throat, cough, shortness of 
breath, chest pain, vomiting, diarrhea, BRBPR, melena, 
hematochezia, dysuria, hematuria. 
 
Past Medical History:
1. reported HTN (no meds)
2. reported Hypercholesterolemia (no meds)
3. Arthritis
4. Migraines

Past Surgical History
1. BTL
2. lithotripsy

 
Social History:
___
Family History:
- Father had kidney stones, HTN, CAD.
- Sister with DM.
- No known endocrine problems or cancers in the family.

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
=============================================
VS: 99.8  91  122/55  20  100%RA
GENERAL: ___ female, alert and oriented, in no 
acute distress.  
HEENT: PERRL, anicteric sclera, pink conjunctiva, patent nares, 
somewhat dry mucous membranes.
CARDIAC: RRR, no murmur appreciated.  
LUNG: CTAB, no wheezes. Breathing comfortably without use of 
accessory muscles.
ABDOMEN: BS+, soft, nondistended. Tender to palpation in RUQ, 
negative ___ sign. No masses or HSM appreciated.
BACK: Mild right CVA tenderness. No spinal tenderness. 
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

PHYSICAL EXAM ON DISCHARGE:
=============================================
VS: 97.7  107/66  67  18  98%RA
Exam unchanged from above with the exception of improved (but 
still mildly present) right flank pain and right upper quadrant 
pain. Recal exam was performed significant for no external 
hemorrhoids and small amount of BRB on finger with brown stool.

 
Pertinent Results:
LABS:
====================================
___ 10:00AM BLOOD WBC-10.6# RBC-4.51 Hgb-14.4 Hct-39.5 
MCV-88 MCH-31.9 MCHC-36.4*# RDW-13.1 Plt ___
___ 10:00AM BLOOD Neuts-79.9* Lymphs-12.5* Monos-6.3 
Eos-0.9 Baso-0.3
___ 10:00AM BLOOD Glucose-103* UreaN-10 Creat-0.9 Na-138 
K-3.9 Cl-100 HCO3-28 AnGap-14
___ 10:00AM BLOOD ALT-18 AST-24 AlkPhos-84 TotBili-0.5
___ 10:00AM BLOOD Lipase-19
___ 10:00AM BLOOD Albumin-4.2
___ 10:22AM BLOOD Lactate-1.3
___ 06:00AM BLOOD WBC-7.0 RBC-3.55* Hgb-11.1*# Hct-31.7* 
MCV-89 MCH-31.4 MCHC-35.1* RDW-13.2 Plt ___
___ 02:24PM BLOOD Hct-31.6*
___ 09:40AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 09:40AM URINE RBC-139* WBC-45* Bacteri-FEW Yeast-NONE 
Epi-5
___ 09:40AM URINE UCG-NEGATIVE

___ 9:40 am URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
      GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

-Blood cx x2 (___): pending at time of discharge.

STUDIES:
====================================
-LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of 
___:
IMPRESSION:
1.5 x 3 mm hyperechoic area in the right kidney, which may 
represent a 
non-obstructing stone. 
2.No evidence of cholecystitis.

-CTU (ABD/PEL) W/&W/O CONTRAST Study Date of ___:
Wet Read: ___ ___ 1:32 ___ 
Perfusion defect consistent with pyelonephritis in the right 
upper pole.  
Distal right ureter is underfilled and difficult to follow, but 
there is a probably 1 mm stone in the distal ureter about 5 cm 
above the ureterovesical junction, but without substantial 
upstream dilatation of the ureter or hydronephrosis.

 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:
=======================================================
___ y/o ___ female with history of prior kidney 
stone who presents with several days of right flank and 
abdominal pain.

ACTIVE ISSUES:
=======================================================
#) Right nephrolithiasis with pyelonephritis: patient with prior 
history of kidney stones presented with several days of 
right-sided flank and abdominal pain. Initial VS were 99.8 96 
141/97 18 97%RA. CT urogram showed 1mm stone in distal right 
ureter, and UA/CTU/exam was suggestive of pyelonephritis (urine 
cx preiminary growing E coli at time of discharge). RUQ 
ultrasound was significant for no evidence of cholecystitis. She 
was started on CTX, given IVFs, IV pain meds, and tamsulosin. 
Overnight she had improvement in her pain and was able to eat 
and drink well on her own. She was discharged to complete a 
14-day course of Cipro 500mg BID (last day ___. 

#) Anemia: On hospital day 2 Hct was 37.1, down from 39.5 on 
admission. This was in the setting of 5L IVFs, however given 
that she reported straining and occasional BRBPR with BMs, it 
was recommended she have outpatient evaluation and colonoscopy. 
It was unclear what her baseline was. Rectal exam was 
significant for a small amount of BRB on the glove with brown 
stool, no external hemorrhoids. Her Hct was stable prior to 
discharge.

#) Depression: history of. She was continued on her preadmission 
venlafaxine XR 75mg qHS.

#) HTN: per patient she has been told she is hypertensive in the 
past, but has not been started on medications. She was 
normotensive during her hospitalization.

#) Migraines: history of, on zolmitriptan PRN at home. She did 
not have any migraines while hospitalized.

TRANSITIONAL ISSUES:
=======================================================
- discharged to complete a 14-day course of Cipro 500mg BID 
(last day ___.
- dishcharged with oxycodone ___ q6hrs (written for 14 
pills).
- Given letter to return to work on ___.
- needs anemia workup and colonoscopy as outpatient.
- given scripts for colace and miralax.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q8H:PRN pain 
2. ZOLMitriptan 5 mg oral PRN migraine 
3. Venlafaxine XR 75 mg PO HS 

 
Discharge Medications:
1. Venlafaxine XR 75 mg PO HS 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
3. Ibuprofen 600 mg PO Q8H:PRN pain 
4. ZOLMitriptan 5 mg oral PRN migraine 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0
6. Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*27 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q6hrs Disp #*14 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis
Nephrolithiasis
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you here at ___ 
___. You were admitted on ___ with back and 
stomach pain, and found to have a right kidney stone and kidney 
infection. You were treated with antibiotics and will need to 
take antibiotics for a total of 14-days (last day ___.

Your red blood cell level was low (this is called anemia). You 
will need to discuss this with your Primary Care Doctor, and we 
recommend you discuss having a colonoscopy. We have given you 
prescriptions for medications to help with your constipation.

Again, it was wonderful to meet you. We wish you all the best.
-Your ___ Team
 
Followup Instructions:
___